US07429579B2
a) 7-(1-Hydroxyimino-ethyl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester
7-Acetyl-3-(tert-butyloxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine (8.9 g, 30.8 mmol) was dissolved in pyridine (30 ml) and hydroxylamine hydrochloride (2.3 g, 33 mmol) was added and the mixture stirred for 2 h at room temperature. The solvent was evaporated and hexane (300 ml) and water (100 ml) were added and the colourless precipitate was filtered and washed with hexane (3×100 ml). The compound was dried in vacuo to give the title compound (6.23 g, 66%).

reactant | 7-Acetyl-3-(tert-butyloxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 30.8 mmol, 8.9 g | C(C)(=O)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C17H23NO3
reactant | hydroxylamine hydrochloride | 33 mmol, 2.3 g | Cl.NO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 7-(1-Hydroxyimino-ethyl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester | 6.23 g, 66% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=C(C=C2)C(C)=NO | C17H24N2O3
